US07109354B2
a) 4-Bromo-2-dimethoxymethyl-phenol
To a solution of 5-bromo-2-hydroxy-benzaldehyde (1 g, 4.9 mmol, Aldrich Chemical Company) in MeOH (25 mL) at 0° C., sodium borohydride (226 mg, 5.9 mmol) was added slowly with stirring. After the addition, the reaction was allowed to warm to rt and stir for an additional hour. Reaction mixture was dissolved into EtOAc and washed with brine (20 mL×2). The organic layer was dried over sodium sulfate. Removal of the solvents in vacuo gave the title compound (1.2 g, quantitative) a yellow oil which was used with out further purification. 1H-NMR (CD3OD): δ 7.35 (m, 2H), 6.75–6.77 (d, 1H, J=7.2 Hz), 5.55 (s, 1H), 3.33 (s, 6H).

reactant | 5-bromo-2-hydroxy-benzaldehyde | 4.9 mmol, 1 g | BrC=1C=CC(=C(C=O)C1)O | C7H5BrO2
reactant | sodium borohydride | 5.9 mmol, 226 mg | [BH4-].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | MeOH | 25 mL | CO | CH4O
product | 4-Bromo-2-dimethoxymethyl-phenol | 1.2 g | BrC1=CC(=C(C=C1)O)C(OC)OC | C9H11BrO3
